US04036977
N-[4-(1-Adamantyloxy)phenyl]pyrrolidine-Hydrochloride
To 29.8 g (0.100 mole) of N-[4-(1-adamantyloxy)phenyl]pyrrolidine dissolved in CH2Cl2 (200 ml) and diethyl ether (25 ml) stirred and cooled in an ice bath is added in one portion 44 ml of 3.4 N HCl in ether (0.15 mole of HCl). After 30 minutes' stirring, the solvent is evaporated. The resulting solid (33.8 g) is recrystallized from CH2Cl2 (120 ml) - diethyl ether (100 ml) to give 29.0 g of white solid product, mp (in bath at 148°; 1°/minute temperature rise), 163.4°-166.8° C. Nmr, ir, and UV spectra were in accord with the structure.

reactant | N-[4-(1-adamantyloxy)phenyl]pyrrolidine | 0.100 mole, 29.8 g | C12(CC3CC(CC(C1)C3)C2)OC2=CC=C(C=C2)N2CCCC2 | C20H27NO
reactant | diethyl ether | 25 ml | C(C)OCC | C4H10O
reactant | ether | 0.15 mole | CCOCC | C4H10O
reactant | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | HCl | 3.4 N, 44 ml | Cl | ClH
product | N-[4-(1-Adamantyloxy)phenyl]pyrrolidine-Hydrochloride | 29.0 g | Cl.C12(CC3CC(CC(C1)C3)C2)OC2=CC=C(C=C2)N2CCCC2 | InChI=1S/C20H27NO.ClH/c1-2-8-21(7-1)18-3-5-19(6-4-18)22-20-12-15-9-16(13-20)11-17(10-15)14-20;/h3-6,15-17H,1-2,7-14H2;1H
